US04120864
Iodomethane (9.05 g. or 0.0637 mole) was added to a solution of 10 g. of 3-mercapto-4-n-butyl-1,2,4-triazole, methanol (100 ml.), and sodium hydroxide (2.55 g. or 0.0637 mole). This solution was then refluxed for 2 hours. The solvent was then removed in vacuum and the residue was dissolved in benzene. This solution was washed with water, dried and the benzene removed in vacuum. The residual oil was distilled to give 3-methylmercapto-4-n-butyl-1,2,4-triazole, b.p. 128°-131° C./ 2 mm. The structure was confirmed by its nuclear magnetic resonance spectrum.

reactant | Iodomethane | 0.0637 mole, 9.05 g | IC | CH3I
reactant | 3-mercapto-4-n-butyl-1,2,4-triazole | SC1=NN=CN1CCCC | C6H11N3S
reactant | sodium hydroxide | 0.0637 mole, 2.55 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 3-methylmercapto-4-n-butyl-1,2,4-triazole | CSC1=NN=CN1CCCC | C7H13N3S
